US04051153
(R)-(+)-4-tert. Butoxy-2-methylbutyronitrile
A mixture of 6.4 g. (0.021 mole) of (S)-(+)-3-tert. butoxy-2-methyl-1-propyl p-toluenesulfonate and 2.09 g. (0.043 mole) of sodium cyanide in 63 ml. of ethanol and 7 ml. of water was stirred and refluxed for 11 hours. After cooling, the reaction mixture was diluted with ice-water and worked up by extraction with CH2Cl2 in the manner of Example 1. The crude product (3.7 g.) was chromatographed on 125 g. of silica gel. Elution with 4:1 parts by volume hexane-ether gave 2.98 g. (91.7%) of R-(+)-4-tert.-butoxy-3-methylbutyronitrile as a colorless liquid.

reactant | (S)-(+)-3-tert. butoxy-2-methyl-1-propyl p-toluenesulfonate | 0.021 mole | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H](COC(C)(C)C)C)C | C15H24O4S
reactant | sodium cyanide | 0.043 mole | [C-]#N.[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | (R)-(+)-4-tert. Butoxy-2-methylbutyronitrile | C(C)(C)(C)OCC[C@H](C#N)C | C9H17NO
